US07829588B2
4-Iodo-2-propoxybenzaldehyde
The procedure is the same as that described above, using 5.5 g, that is 18.8 mmol, of (4-iodo-2-propoxyphenyl)methanol, 1.8 ml of oxalyl chloride and 3 ml of DMSO. After evaporation of the solvents, 5.5 g (100%) of the expected compound are recovered in the form of a yellow solid.

reactant | (4-iodo-2-propoxyphenyl)methanol | IC1=CC(=C(C=C1)CO)OCCC | C10H13IO2
reactant | oxalyl chloride | 1.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | 4-Iodo-2-propoxybenzaldehyde | IC1=CC(=C(C=O)C=C1)OCCC | C10H11IO2
